US04462819
Preparation of 3-Ureidophenylboric Acid
3-Aminophenylboric acid hemisulfate (5.0 g, 0.027 mol) was dissolved in 15 mL of acetic acid and 30 mL of water, and the solution warmed to 35° C. with stirring. To this solution was then added, over a 20 minute period, a solution of 4.4 g (0.054 mol) of potassium cyanate in 20 mL of water. After the addition was complete, the resulting solution was heated to 50°-60° C. for 2 hours. The reaction mixture was then cooled to 0° C. and filtered and the solid product collected. The solid was washed 2×20 mL ice water and dried (3.3 g). The compound appeared to lose water on heating to 200° C. but did not melt even at 250° C.

reactant | 3-Aminophenylboric acid hemisulfate | 0.027 mol, 5.0 g | S(=O)(=O)(O)O.NC=1C=C(C=CC1)OB(O)O.NC=1C=C(C=CC1)OB(O)O
reactant | potassium cyanate | 0.054 mol, 4.4 g | [O-]C#N.[K+]
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
solvent | water | 30 mL | O | H2O
solvent | water | 20 mL | O | H2O
product | 3-Ureidophenylboric Acid | N(C(=O)N)C=1C=C(C=CC1)OB(O)O | C7H9BN2O4
